US06255494B1
Preparation of 1-[3-(carbamoyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
In an ammonium hydroxide solution (28%, 10 ml) was placed 1-[3-(chlorocarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (400 mg, 1.0 mmol). To this mixture 10 ml of methanol were added, to enhance solubility and the mixture was stirred for about 64 hours at room temperature. The reaction mixture was then concentrated under reduced pressure to produce a tan foam. The crude material was further purified by flash silica gel chromatography, eluting with a gradient solvent of 19:1 ethyl acetate:methanol to 9:1 ethyl acetate:methanol. The fractions containing the desired material were combined and concentrated in vacuo to yield 300 mg (73%) of the desired title compound as a white foam.

reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
reactant | 1-[3-(chlorocarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 1.0 mmol, 400 mg | ClC(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C20H20Cl2N2O2
solvent | methanol | 10 ml | CO | CH4O
product | 1-[3-(carbamoyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 300 mg, 73% | C(N)(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C20H22ClN3O2
